US06608203B2
2-Phenyl-1-thiazol-2-yl-1,2,3,4-tetrahydroisoquinolin-6-ol
The title compound was prepared by analogy to Example 48 except that 6-methoxy-2-phenyl-1-thiazol-2-yl-1,2,3,4-tetrahydroisoquinoline was used instead of 6-methoxy-1-(4-methoxy-phenyl)-2-phenyl-1,2,3,4-tetrahydroisoquinoline, and neat CH2Cl2 to 10% MeOH/CH2Cl2 was used as eluent for flash chromatography purification.

reactant | 6-methoxy-2-phenyl-1-thiazol-2-yl-1,2,3,4-tetrahydroisoquinoline | COC=1C=C2CCN(C(C2=CC1)C=1SC=CN1)C1=CC=CC=C1 | C19H18N2OS
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | 2-Phenyl-1-thiazol-2-yl-1,2,3,4-tetrahydroisoquinolin-6-ol | C1(=CC=CC=C1)N1C(C2=CC=C(C=C2CC1)O)C=1SC=CN1 | C18H16N2OS
